US07091352B2
3) (±)-1,2,3,5,6,7,8,8a-Octahydroindolizin-7-one
(±)-1-(t-Butoxycarbonyl)-2-(2-oxo-3-butenyl)pyrrolidine (140 mg (0.59 mmol), prepared as described in 2)) was dissolved in tetrahydrofuran (2 ml). To the solution was added an aqueous solution of 1N hydrochloric acid (1.76 ml, 1.76 mmol), and the resulting mixture was stirred at 70° C. for 4 hours. At the end of this time, to the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate and the resulting mixture was extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was removed by distillation under reduced pressure, to give the title compound (76 mg) as a light brown oil (yield 93%).

reactant | (±)-1-(t-Butoxycarbonyl)-2-(2-oxo-3-butenyl)pyrrolidine | 0.59 mmol, 140 mg | C(C)(C)(C)OC(=O)N1C(CCC1)CC(C=C)=O | C13H21NO3
reactant | hydrochloric acid | 1.76 mmol, 1N, 1.76 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (±)-1,2,3,5,6,7,8,8a-Octahydroindolizin-7-one | 76 mg, yield 93% | C1CCN2CCC(CC12)=O | C8H13NO
